US05030792
1,7-Octadienyl trifluoroacetate was prepared by reacting 1 g of palladium acetate in 20 ml of benzene with 102 g of trifluoroacetic acid and 0.96 M butadiene in a 300 ml autoclave at ambient temperature for 4 days.

reactant | trifluoroacetic acid | 102 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | butadiene | 0.96 M | C=CC=C | C4H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | palladium acetate | 1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1,7-Octadienyl trifluoroacetate | FC(C(=O)OC=CCCCCC=C)(F)F | C10H13F3O2
